US07582626B2
a) 2-(2-Dimethylamino-ethylamino)-cyclopent-1-enecarboxylic acid ethyl ester
A solution of 2-oxo-cyclopentanecarboxylic acid ethyl ester (5.00 g, 32.0 mmol) in ethanol (50 mL) was treated with N,N-dimethylethylenediamine (3.85 mL, 35.2 mmol). The solution was heated at reflux at 80° C. for 16 h. After cooling to 25° C. the solvent was removed in vacuo, and the residue was purified by flash column chromatography (Teledyne Isco RediSep Flash Column 40 g; 0-100% ethyl acetate in hexanes) to afford the desired product, 2-(2-dimethylamino-ethylamino)-cyclopent-1-enecarboxylic acid ethyl ester (6.7 g, 29.6 mmol, 92.5%), as a light yellow oil. The product was used immediately in the following step without characterization.

reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | 32.0 mmol, 5.00 g | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | N,N-dimethylethylenediamine | 35.2 mmol, 3.85 mL | CN(CCN)C | C4H12N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(2-dimethylamino-ethylamino)-cyclopent-1-enecarboxylic acid ethyl ester | 29.6 mmol, 6.7 g, 92.5% | C(C)OC(=O)C1=C(CCC1)NCCN(C)C | C12H22N2O2
